US05250527
m-Chloroperbenzoic acid (0.75 g total) in dichloromethane (40 ml) was added to a solution of 2-(4-piperidino-3-chloro-5-methyl-2-pyridylmethylthio)-5-(1, 1,2,2-tetrafluoroethoxy)-(1H)-benzimidazole (1.5 g) in dichloromethane (30 ml) at -40° to -50° over a period of 2.5 hours. After a further 0.5 hour ammonia was passed through the solution and the precipitate filtered off and washed well with dichloromethane. The filtrates were evaporated under reduced pressure to give an oil which, on treatment with acetonitrile, gave 2-(4-piperidino-3-chloro-5-methyl-2-pyridylmethylsulphinyl)-5-(1, 1,2,2-tetrafluoroethoxy)-(1H)-benzimidazole, 0.77 g. m.p. 155°-56° (dec).

reactant | m-Chloroperbenzoic acid | 0.75 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(4-piperidino-3-chloro-5-methyl-2-pyridylmethylthio)-5-(1, 1,2,2-tetrafluoroethoxy)-(1H)-benzimidazole | 1.5 g | N1(CCCCC1)C1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F)Cl | C21H21ClF4N4OS
reactant | ammonia | N | H3N
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-piperidino-3-chloro-5-methyl-2-pyridylmethylsulphinyl)-5-(1, 1,2,2-tetrafluoroethoxy)-(1H)-benzimidazole | N1(CCCCC1)C1=C(C(=NC=C1C)CS(=O)C1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F)Cl | C21H21ClF4N4O2S
